* D:\year1\sem2\sensors\Labs\CMOS\project\working file_backup\files_for_submmition\final_pwl_ready_with_5_bit_converter_with_reset.asc
V2 VDD 0 3.3 Rser=0
M21 N031 Rect_signal 0 0 NMOS l=0.35u w=0.4u
M22 VDD Rect_signal N031 VDD PMOS l=0.35u w=0.8u
M23 N032 N031 0 0 NMOS l=1.05u w=1.2u
M24 VDD N031 N032 VDD PMOS l=1.05u w=2.4u
M25 N033 N032 0 0 NMOS l=3.15u w=3.6u
M26 VDD N032 N033 VDD PMOS l=3.15u w=7.2u
C4 N032 0 500f
C5 N031 0 500f
C6 N033 0 500f
M27 N029 N033 0_detector VDD PMOS l=0.35u w=0.8u
M28 VDD Rect_signal N029 VDD PMOS l=0.35u w=0.8u
M29 0_detector N033 0 0 NMOS l=0.35u w=0.4u
M30 0_detector Rect_signal 0 0 NMOS l=0.35u w=0.4u
M32 VDD p_bit_mirror sawtooth VDD PMOS l=2u w=80u
C7 sawtooth N035 1f
C8 sawtooth 0 3.4p
M31 sawtooth 0_detector 0 0 NMOS l=0.35u w=15u
M37 N035 Current_source 0 0 NMOS l=2u w=40u
V1 VDD_control 0 PWL(30u 0 31u 1 50u 1 51u 2 70u 2 71u 3)
M38 VDD N027 N028 VDD PMOS l=0.35u w=2.8u
M39 VDD N027 N027 VDD PMOS l=0.35u w=2.8u
M40 N028 VDD_control N034 0 NMOS l=0.35u w=1.4u
M41 N027 sawtooth N034 0 NMOS l=0.35u w=1.4u
M34 N036 N036 0 0 NMOS l=0.35u w=1.4u
R3 VDD N036 10k
M33 N034 N036 0 0 NMOS l=0.35u w=3u
M44 VDD N028 N030 VDD PMOS l=0.35u w=2.8u
M45 N030 N036 0 0 NMOS l=0.35u w=1.4u
M42 PWL_output N030 0 0 NMOS l=0.35u w=1u
M43 VDD N030 PWL_output VDD PMOS l=0.35u w=2.4u
V6 bit_1 0 0 Rser=10k
V7 bit_2 0 0 Rser=10k
V3 bit_3 0 0 Rser=10k
V4 bit_4 0 0 Rser=10k
V5 bit_5 0 0 Rser=10k
I2 Mirror_bits Current_source {Iref}
R4 Mirror_bits Current_source 10G
M46 p_bit_mirror Mirror_bits N009 VDD PMOS l=0.5u w=11.5u
M47 p_bit_mirror Mirror_bits Mirror_bits VDD PMOS l=0.5u w=2u
M48 N015 bit_5 0 0 NMOS l=0.35u w=1u
M49 VDD bit_5 N015 VDD PMOS l=0.35u w=2.4u
M50 N009 N015 Current_source VDD PMOS l=0.5u w=22.4u
M51 p_bit_mirror Mirror_bits N010 VDD PMOS l=0.5u w=6.1u
M52 N016 bit_4 0 0 NMOS l=0.35u w=1u
M53 VDD bit_4 N016 VDD PMOS l=0.35u w=2.4u
M54 N010 N016 Current_source VDD PMOS l=0.5u w=11.2u
M55 p_bit_mirror Mirror_bits N011 VDD PMOS l=0.5u w=3.1u
M56 N017 bit_3 0 0 NMOS l=0.35u w=1u
M57 VDD bit_3 N017 VDD PMOS l=0.35u w=2.4u
M58 N011 N017 Current_source VDD PMOS l=0.5u w=5.6u
M59 p_bit_mirror Mirror_bits N012 VDD PMOS l=0.5u w=1.6u
M60 N018 bit_2 0 0 NMOS l=0.35u w=1u
M61 VDD bit_2 N018 VDD PMOS l=0.35u w=2.4u
M62 N012 N018 Current_source VDD PMOS l=0.5u w=2.8u
M63 p_bit_mirror Mirror_bits N013 VDD PMOS l=0.5u w=1u
M64 N019 bit_1 0 0 NMOS l=0.35u w=1u
M65 VDD bit_1 N019 VDD PMOS l=0.35u w=2.4u
M66 N013 N019 Current_source VDD PMOS l=0.5u w=1.4u
M67 Current_source Current_source 0 0 NMOS l=0.35u w=1.4u
M8 N006 N005 N021 0 NMOS l=0.35u w=1u
M9 N002 N005 N006 VDD PMOS l=0.35u w=2.4u
M10 N007 N006 N022 0 NMOS l=0.35u w=1u
M15 N001 N006 N007 VDD PMOS l=0.35u w=2.4u
M16 N005 N007 N023 0 NMOS l=0.35u w=1u
M68 N003 N007 N005 VDD PMOS l=0.35u w=2.4u
M69 N021 Current_source 0 0 NMOS l=0.35u w=1.4u
M70 N020 Current_source 0 0 NMOS l=0.35u w=1.4u
M71 VDD p_bit_mirror N002 VDD PMOS l=0.35u w=2.8u
M72 VDD p_bit_mirror N020 VDD PMOS l=0.35u w=2.8u
M73 VDD p_bit_mirror N001 VDD PMOS l=0.35u w=6u
M74 VDD p_bit_mirror N003 VDD PMOS l=0.35u w=6u
M75 N022 Current_source 0 0 NMOS l=0.35u w=1.8u
M76 N023 Current_source 0 0 NMOS l=0.35u w=1.8u
M77 N014 N005 N025 0 NMOS l=0.35u w=1u
M78 N008 N005 N014 VDD PMOS l=0.35u w=2.4u
M79 VDD N004 N008 VDD PMOS l=0.35u w=2.8u
M80 VDD N004 N004 VDD PMOS l=0.35u w=2.8u
M81 N025 N024 0 0 NMOS l=0.35u w=1.4u
M82 N024 N024 0 0 NMOS l=0.35u w=1.4u
R5 N004 N024 10k
M83 Rect_signal N014 0 0 NMOS l=0.35u w=1u
M84 VDD N014 Rect_signal VDD PMOS l=0.35u w=2.4u
C9 N006 0 300f
C10 N007 0 220f
C11 N005 0 200f
M1 VDD p_bit_mirror p_bit_mirror VDD PMOS l=0.35u w=2.8u
M2 VDD PWL_output N037 VDD PMOS l=0.35u w=2.8u
M3 N037 N036 0 0 NMOS l=0.35u w=1.4u
V8 RESET 0 3.3 Rser=0
M5 N026 RESET 0 0 NMOS l=0.35u w=1u
M6 VDD RESET N026 VDD PMOS l=0.35u w=2.4u
M4 N005 N026 0 0 NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Juuzo\AppData\Local\LTspice\lib\cmp\standard.mos
.inc library.mod
.param Iref=1u
.tran 40u
* detect falling edge of rectangular wave
* make Sawtooth wave
* XOR
* PWL by using camparaotr
* 5-bit Digital-to-frequency converter
* comparator
* make rectangular wave from oscilator
* For implementing main core  make V3-V7 0v V8 3.3v and add <.step param Iref list 1u 2u 4u 8u 16u 32u\nand check:\n Rect_signal node for rectangular signal \n Sawtooth node for sawtooth signal\n PWL_output for PWL signal \nyou can also chec bit converter part by changing v3_v7 voltage source values from 0 to 3.3 by implementing 5bit binar value \neach represents sum(2^n)+2 n activated bits\n \nSystem also can be reseted by Reset V8 making low
.backanno
.end
